US07485634B2
A mixture of 1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid methyl ester (1.21 g, 5 mmol), di-tert-butyl dicarbonate (1.69 g, 1.5 eq.) and diisopropylethylamine (1.3 mL, 1.5 eq.) in benzene was heated to reflux with a Dean-Stark trap for 48 hours. After cooling, the solvent was removed and the crude product was redissolved in DCM and passed through a plug of silica gel, and eluted with DCM. Evaporation of the solvent gave a glue-like product (1,6-dihydro-2H-azepino[4,5-b]indole-3,5-dicarboxylic acid 3-tert-butyl ester 5-methyl ester); 1H-NMR (CDCl3): δ 10.52 (1H, br s), 8.40 (1H, s), 7.47 (2H, d), 7.34 (1H, m), 7.15 (1H,dd), 7.07 (1H,dd), 3.97 (2H, t), 3.87 (3H, s), 3.14 (2H, t), 1.57 (9H, s), 1.52 (3H, t).

reactant | 1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid methyl ester | 5 mmol, 1.21 g | COC(=O)C1=CNCCC2=C1NC=1C=CC=CC21 | C14H14N2O2
reactant | di-tert-butyl dicarbonate | 1.69 g, 1.5 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylethylamine | 1.3 mL, 1.5 eq. | C(C)(C)N(CC)C(C)C | C8H19N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1,6-dihydro-2H-azepino[4,5-b]indole-3,5-dicarboxylic acid 3-tert-butyl ester 5-methyl ester | COC(=O)C1=CN(CCC2=C1NC=1C=CC=CC21)C(=O)OC(C)(C)C | C19H22N2O4
